US04518597
6-[4-(4-Methyl-phenylmercapto)-butoxy]-4,4-di-n-hexyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-di-n-hexyl-4H-3,1-benzoxazin-2-one and 4-methyl-thiophenol.

reactant | 6-(4-chlorobutoxy)-4,4-di-n-hexyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(CCCCCC)CCCCCC)C1 | C24H38ClNO3
reactant | 4-methyl-thiophenol | CC1=CC=C(C=C1)S | C7H8S
product | 6-[4-(4-Methyl-phenylmercapto)-butoxy]-4,4-di-n-hexyl-4H-3,1-benzoxazin-2-one | CC1=CC=C(C=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(CCCCCC)CCCCCC)C1 | C31H45NO3S
